US09107964B2
25 mg (0.086 mmol equivalents) of 2,2-dimethyl-5-hydroxymethyl-5-[2-(2-nitro-1H-imidazol-1-yl)ethyl]-1,3-dioxane was dissolved in 1 mL of dichloromethane, 19 mg (0.172 mmol equivalents) of 1,4-diazabicyclo[2,2,2]octane and 19 mg (0.10 mmol equivalents) of p-toluenesulfonyl chloride were added thereto, and the mixture was stirred at room temperature (25° C.) for 4 hours. After completion of the reaction, a saturated aqueous solution of ammonium chloride was added, and the mixture was extracted three times with ethyl acetate. The combined ethyl acetate layers were dried with anhydrous magnesium sulfate and then concentrated under vacuum. The obtained crude product was purified by silica gel column chromatography (eluent: hexane/ethyl acetate (v/v)=1/3) to give 18 mg (0.041 mmol equivalents) of 2,2-dimethyl-5-[2-(2-nitro-1H-imidazol-1-yl)ethyl]-5-(p-toluenesulfonyloxymethyl)-1,3-dioxane.

reactant | 2,2-dimethyl-5-hydroxymethyl-5-[2-(2-nitro-1H-imidazol-1-yl)ethyl]-1,3-dioxane | 0.086 mmol, 25 mg | CC1(OCC(CO1)(CCN1C(=NC=C1)[N+](=O)[O-])CO)C | C12H19N3O5
reactant | 1,4-diazabicyclo[2,2,2]octane | 0.172 mmol, 19 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | p-toluenesulfonyl chloride | 0.10 mmol, 19 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2,2-dimethyl-5-[2-(2-nitro-1H-imidazol-1-yl)ethyl]-5-(p-toluenesulfonyloxymethyl)-1,3-dioxane | 0.041 mmol, 18 mg | CC1(OCC(CO1)(COS(=O)(=O)C1=CC=C(C=C1)C)CCN1C(=NC=C1)[N+](=O)[O-])C | C19H25N3O7S
